US06518264B2
A solution of 320 mg of 4-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazine-1-carboxylic acid tert-butyl ester in 5 cm3 of formic acid is stirred for 5 hours at a temperature close to 20° C., and then for 1 hour at a temperature close to 45° C. The reaction medium is concentrated to dryness under reduced pressure (5 kPa) at a temperature close to 30° C., taken up in 20 cm3 of ethyl acetate and alkalinized with 10 cm3 of a saturated aqueous sodium bicarbonate solution. After separating after settling out, the organic phase is washed with three times 10 cm3 of water, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (1 kPa) at a temperature close to 40° C. The residue obtained is purified by depositing, in solution in a minimum of dichloromethane, on silica gel deposited on a plate [(gel 0.5 mm thick, 5 plates of 20 20 cm, eluent: dichloromethane-methanol (80-20 by volume)]. The zone corresponding to the adsorbed desired product, located with UV rays, is scraped and the silica recovered is washed on sintered glass with a dichloromethane-methanol mixture (75-25 by volume). The filtrates are combined and concentrated to dryness under reduced pressure (1 kPa) at a temperature close to 30° C. 180 mg of 1-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazine are thus obtained in the form of a white powder [1H NMR spectrum (300 MHz, CDCl3, δ in ppm): 2.77 (s, 3H), 3.05 (mt, 4H), 3.16 (mt, 4H), 3.81 (mt, 2H), 4.33 (mt, 2H), 4.49 (s, 1H), 6.79 (broad d, J=8Hz, 1H), 6.90 (dd, J=8 and 2.5 Hz, 1H), 6.98 (mt, 1H), from 7.20 to 7.40 (mt, 9H)].

reactant | 4-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazine-1-carboxylic acid tert-butyl ester | 320 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=C1)CS(=O)(=O)C=C1CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C33H37Cl2N3O4S
solvent | formic acid | 5 cm3 | C(=O)O | CH2O2
product | 1-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazine | 180 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C=CC1)N1CCNCC1)C1=CC=C(C=C1)Cl | C28H29Cl2N3O2S
